US08389508B2
A solution of 5-[5-(2-ethyl-3-formylphenyl)-1,3-thiazol-2-yl]-2-[(1-methylethyl)oxy]benzonitrile (D73) (80 mg, 0.212 mmol) and L-proline (48.9 mg, 0.425 mmol) in Ethanol (10 mL) was stirred at room temperature for 15 min, then sodium cyanoborohydride (40.1 mg, 0.637 mmol) was added. The mixture was stirred at room temperature for 2 h. After concentration, the residue was partitioned between ethyl acetate and aqueous diluted HCl, washed with saturated brine. The organic phase was evaporated in vacuo. The residue was purified by mass Directed AutoPrep to afford 1-{[3-(2-{3-cyano-4-[(1-methylethyl)oxy]phenyl}-1,3-thiazol-5-yl)-2-ethylphenyl]methyl}-L-proline (E81) (26 mg) as a TFA salt.

reactant | 5-[5-(2-ethyl-3-formylphenyl)-1,3-thiazol-2-yl]-2-[(1-methylethyl)oxy]benzonitrile | 0.212 mmol, 80 mg | C(C)C1=C(C=CC=C1C=O)C1=CN=C(S1)C=1C=CC(=C(C#N)C1)OC(C)C | C22H20N2O2S
reactant | L-proline | 0.425 mmol, 48.9 mg | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | sodium cyanoborohydride | 0.637 mmol, 40.1 mg | C(#N)[BH3-].[Na+]
solvent | Ethanol | 10 mL | C(C)O | C2H6O
product | 1-{[3-(2-{3-cyano-4-[(1-methylethyl)oxy]phenyl}-1,3-thiazol-5-yl)-2-ethylphenyl]methyl}-L-proline | 26 mg | C(#N)C=1C=C(C=CC1OC(C)C)C=1SC(=CN1)C=1C(=C(C=CC1)CN1[C@H](C(=O)O)CCC1)CC | C27H29N3O3S
